US09403805B2
(2S,4S)-4-Amino-1-cyclohexylmethyl-2-methyl-pyrrolidine-2-carboxylic acid methyl ester was prepared from (2S,4R)-4-hydroxy-2-methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester in a similar reaction sequence used in the preparation of (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester.

reactant | (2S,4R)-4-hydroxy-2-methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@]1(N(C[C@@H](C1)O)C(=O)OC(C)(C)C)C | C12H21NO5
reactant | (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N)CC1CCCCC1 | C13H24N2O2
product | (2S,4S)-4-Amino-1-cyclohexylmethyl-2-methyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@]1(N(C[C@H](C1)N)CC1CCCCC1)C | C14H26N2O2
